datasets/10k_Mayr_OG.csv
SMILES Labelled
"C[C:44]1=[CH:43][CH:42]=[C:41]([CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:46]=[CH:45]1.C[Si](C)(C)OC(C1=CC=CC=C1)(C1=CC=CC=C1)[C@@H]1CCC[N:12]1/[CH:11]=[CH:10]/C1=CC=CC=C1>>C[Si](C)(C)OC(C1=CC=CC=C1)(C1=CC=CC=C1)[C@@H]1CCC[N+:12]1=[CH:11][CH:10](C1=CC=CC=C1)[CH:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]1 10,11=10,20;12=11,12"
"C1=CC=C([P+:61](C2=CC=CC=C2)(C2=CC=CC=C2)[CH:10]=[C:11]([O-:12])[C:72]2=[CH:73][CH:74]=[CH:75][CH:84]=[CH:83]2)C=C1.CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[CH:22]=[C:23](C(C)(C)C)[C:24](=[O:25])[C:33](C(C)(C)C)=[CH:32]2)[CH:46]=[CH:45]1>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([CH:10]([C:11](=[O:12])[C:72]2=[CH:73][CH:74]=[CH:75][CH:84]=[CH:83]2)[P+:61](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[C:21]2=[CH:22][C:23](C(C)(C)C)=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32]2)[CH:46]=[CH:45]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"CCC[O:62][Si:11](C)(C)[H:10].Cl[C:32]1=[N+:21]([F:20])[C:42](Cl)=[CH:43][CH:34]=[CH:33]1>>CCC[O:62][Si+:11](C)C.Cl[C:32]1=[N:21][C:42](Cl)=[CH:43][CH:34]=[CH:33]1.[H:10][F:20] 10,11=10,20;20,21=21"
"C[N:62](C)[C:61](=[NH:10])[N:72](C)C.N#C[C:21]1=[CH:20][C:41]2=[N+:42]([O-])O[N:35]=[C:34]2[C:23]([N+:24]([O-])=[O:25])=[CH:22]1>>C[N:62](C)[C:61](=[NH+:10][CH:20]1[C:21](C#N)=[CH:22][C:23](=[N+:24]([O-])[O-:25])[C:34]2=[N:35]O[N+:42]([O-])=[C:41]12)[N:72](C)C 10=20;20,21=21,22;22,23=23,24;24,25=25"
"C1=CC=C([C:11]2=[N:10]CCC[NH:12]2)C=C1.C1=CC=C([C:22](/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=[O:23])C=C1>>C1=CC=C([C:11]2=[NH+:12]CCC[N:10]2[CH:20]([CH:21]=[C:22](C2=CC=CC=C2)[O-:23])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[CH:22]=[C:23](C3=CC=CC=C3)[C:24](=[O:25])[C:33](C3=CC=CC=C3)=[CH:32]2)[CH:46]=[CH:45]1.C[S:11](C)=[CH:10][C:61](C1=CC=C(Br)C=C1)=[O:62]>>CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([CH:10]([S+:11](C)C)[C:61](C2=CC=C(Br)C=C2)=[O:62])[C:21]2=[CH:22][C:23](C3=CC=CC=C3)=[C:24]([O-:25])[C:33](C3=CC=CC=C3)=[CH:32]2)[CH:46]=[CH:45]1 10,11=10,20;20,21=21,22;22,23=23,24;24,25=25"
"C1=CC=C([P:61](C2=CC=CC=C2)([CH:10]=[C:11]=[N-:12])=[O:62])C=C1.Cl[C:32]1=[N+:21]([F:20])[C:42](Cl)=[CH:43][CH:34]=[CH:33]1>>C1=CC=C([P:61](C2=CC=CC=C2)([CH:10]([C:11]#[N:12])[F:20])=[O:62])C=C1.Cl[C:32]1=[N:21][C:42](Cl)=[CH:43][CH:34]=[CH:33]1 10,11=10,20;12=11,12;20,21=21"
"FC(F)(F)[S:20][N:21]1[C:22](=[O:23])C2=C(C=CC=C2)[S:32]1(=[O:33])=[O:34].[H]/[C:10](=[C:11](/[O-:12])[O:61]CC)[C:72](=[O:73])[O:83]CC>>C1=CC2=C(C=C1)[S:32](=[O:33])(=[O:34])[N:21]=[C:22]2[O-:23].[H][C:10]([C:11](=[O:12])[O:61]CC)([S:20]C(F)(F)F)[C:72](=[O:73])[O:83]CC 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC1(C)C23C4C5C6C2[Zr:11]56432789(C)([CH3:10])C3C2C7C18C39.CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[CH:22]=[C:23](C(C)(C)C)[C:24](=[O:25])[C:33](C(C)(C)C)=[CH:32]2)[CH:46]=[CH:45]1>>CC1(C)C23C4C5C6C2[Zr+:11]56432789(C)C3C2C7C18C39.CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([CH3:10])[C:21]2=[CH:22][C:23](C(C)(C)C)=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32]2)[CH:46]=[CH:45]1 10,11=10,20;20,21=21,22;22,23=23,24;24,25=25"
"C1=CC=C(CC2C[O:72][C:61](=[O:62])[N-:10]2)C=C1.CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21](\C[N+]23CCC(CC2)CC3)[C:22](C)=[O:23])[CH:43]=[CH:44]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([N:10]2C(CC3=CC=CC=C3)C[O:72][C:61]2=[O:62])[C:21](C[N+]23CCC(CC2)CC3)=[C:22](C)[O-:23])[CH:43]=[CH:44]1 10=20;20,21=21,22;22,23=23"
"CC1=CC(C)=C([N+]2=C([C:22](/[CH:21]=[CH:20]/[C:31]3=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]3)=[O:23])N(C)C=C2)C(C)=C1.CN(C)[C:62]([C@@H:61]1CCC[NH:10]1)=[O:63]>>CC1=CC(C)=C([N+]2=C([C:22](=[CH:21][CH:20]([NH+:10]3CCC[C@H:61]3[C:62](N(C)C)=[O:63])[C:31]3=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]3)[O-:23])N(C)C=C2)C(C)=C1 10=20;20,21=21,22;22,23=23"
"CC1(C)O[B-:63](C2=CC(C(F)(F)F)=CC(C(F)(F)F)=C2)([CH2:62]/[CH:11]=[CH:10]/C)OC1(C)C.N#C[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[CH:21]/[N+:22](=[O:23])[O-:33])[CH:46]=[CH:45]1>>CC1(C)O[B-:63](C2=CC(C(F)(F)F)=CC(C(F)(F)F)=C2)([CH2:62][CH+:11][CH:10](C)[CH:20]([CH:21]=[N+:22]([O-:23])[O-:33])[C:41]2=[CH:42][CH:43]=[C:44](C#N)[CH:45]=[CH:46]2)OC1(C)C 10,11=10,20;20,21=21,22;22,23=23"
"CC1(C)C[C:61](=[O:62])[CH-:10][C:71](=[O:72])C1.Cl[C:21]1([Cl:20])[C:22](=[O:23])[C:35]2=[C:34](C=CC=N2)[C:33](Cl)=[CH:32]1>>CC1(C)C[C:61](=[O:62])[CH:10]([Cl:20])[C:71](=[O:72])C1.Cl[C:21]1=[C:22]([O-:23])[C:35]2=[C:34](C=CC=N2)[C:33](Cl)=[CH:32]1 10=20;20,21=21,22;22,23=23"
"C[C:22]1=[NH+:23]C2=C(C=CC=C2)/[C:21]1=[CH:20]\[C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1.C[NH:61][NH2:10]>>C[C:22]1=[C:21]([CH:20]([NH2+:10][NH:61]C)[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)C2=C(C=CC=C2)[NH:23]1 10=20;20,21=21,22;22,23=23"
